US07902372B2
Part A: 4-Fluorobenzenesulfonyl azide
Suspend 4-fluorobenzenesulfonyl chloride (0.500 g, 2.57 mmol) and sodium azide (0.200 g, 3.08 mmol) in acetone. Heat at reflux overnight before concentrating the reaction mixture. Purify by flash 40 chromatography, eluting with 10% ethyl acetate in hexanes to give the title compound: 1H NMR (DMSO-d6) δ 7.58 (tt, J=8.04, 2.02 Hz, 2H), 8.12 (td, 4.89, 1.96 Hz, 2H); HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 50-99% over 19 min], tR=16.5 min, 92.4% purity.

reactant | 4-fluorobenzenesulfonyl chloride | 2.57 mmol, 0.500 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | sodium azide | 3.08 mmol, 0.200 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-Fluorobenzenesulfonyl azide | FC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C6H4FN3O2S
